US05025025
To a solution of 0.378 g of 2,2-dimethyl propanol in 3 mL tetrahydrofuran is added 0.003 mL of 2.5 M n-butyllithium in hexane. To this solution is added 0.332 g methyl 8-(p-chlorophenylsulfonamido)-4-[3-(3-pyridyl)-propyl]-octanoate and the mixture is refluxed for 20 hours. The reaction is quenched by addition of 3 mL of saturated ammonium chloride solution. It is then extracted with methylene chloride (3×10 mL). The combined organic extracts are dried, filtered and evaporated to dryness to give a clear oil which is purified by preparative thin layer chromatography to obtain 2,2-dimethylpropyl 8-(p-chlorophenyl-sulfonamido)-4-[3-(3-pyridyl)-propyl]-octanoate as a pale yellow oil.

reactant | 2,2-dimethyl propanol | 0.378 g | CC(CO)(C)C | C5H12O
reactant | n-butyllithium | 2.5 M, 0.003 mL | C(CCC)[Li]
reactant | methyl 8-(p-chlorophenylsulfonamido)-4-[3-(3-pyridyl)-propyl]-octanoate | 0.332 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC(=O)OC)CCCC=1C=NC=CC1 | C23H31ClN2O4S
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2,2-dimethylpropyl 8-(p-chlorophenyl-sulfonamido)-4-[3-(3-pyridyl)-propyl]-octanoate | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC(=O)OCC(C)(C)C)CCCC=1C=NC=CC1 | C27H39ClN2O4S
